US08044052B2
2-(3-(Piperidin-4-ylidenemethyl)phenoxy)-5-(pyrrolidin-1-yl)pyridine
To a solution of tert-butyl 4-(3-(5-(pyrrolidin-1-yl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate (0.335 g, 0.769 mmol) in CH2Cl2 (5 mL) cooled to 0° C. under a N2 atmosphere was added TFA (0.88 mL, 11.49 mmol). The resulting mixture was stirred for 1 h at RT. The solution was concentrated and then quenched with saturated NaHCO3 solution. The mixture was extracted with CH2Cl2. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to give the title compound (0.224 g, 86.8%). 1H NMR (500 MHz, DMSO-d6): δ 7.59 (s, 1H), 7.23 (m, 1H), 6.95 (m, 1H), 6.89 (d, J=7.5 Hz, 1H), 6.82 (m, 3H), 6.25 (s, 1H), 3.27 (m, 4H), 2.98 (m, 2H), 2.86 (m, 2H), 2.49 (m, 2H), 2.34 (m, 2H), 2.02 (m, 4H); m/z (336.2, MH+).

reactant | tert-butyl 4-(3-(5-(pyrrolidin-1-yl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 0.769 mmol, 0.335 g | N1(CCCC1)C=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C26H33N3O3
reactant | TFA | 11.49 mmol, 0.88 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(Piperidin-4-ylidenemethyl)phenoxy)-5-(pyrrolidin-1-yl)pyridine | 0.224 g, 86.8% | N1CCC(CC1)=CC=1C=C(OC2=NC=C(C=C2)N2CCCC2)C=CC1 | C21H25N3O
